US07247734B2
N-Bromosuccinimide (2.0 g, 11.2 mmol) was added to a solution of 7-hydroxy-2-methyl-3-phenyl-chromen-4-one (2.5 g, 10 mmol) in DMF (20 ml) and the solution stirred for ˜24 hrs. to give an orange suspension. The suspension was poured into water (200 ml) to give a pale pink precipitate, solids were removed by filtation and washed with water. Solids were recrystallised from ethanol, to give the 8-bromo-7-hydroxy-2-methyl-3-phenyl-chromen-4-one as an off-white solid (1.95 g)

reactant | N-Bromosuccinimide | 11.2 mmol, 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 7-hydroxy-2-methyl-3-phenyl-chromen-4-one | 10 mmol, 2.5 g | OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=CC=C1)=O | C16H12O3
reactant | water | 200 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 8-bromo-7-hydroxy-2-methyl-3-phenyl-chromen-4-one | 1.95 g | BrC=1C(=CC=C2C(C(=C(OC12)C)C1=CC=CC=C1)=O)O | C16H11BrO3
